US08067590B2
1-[5-(2-Chloro-acetyl)-1,3-dihydro-isoindol-2-yl]-2,2,2-trifluoro-ethanone
To 5.00 g (37.5 mmol) aluminium(III)-chloride in 20 mL 1,2-dichloroethane is added at 0° C. dropwise 2.24 mL (28.1 mmol) 1,3-dichloro-propan-2-one keeping the temperature below 15° C. Then 4.48 g (18.7 mmol) 1-(1,3-dihydro-isoindol-2-yl)-2,2,2-trifluoro-ethanone in 5 mL 1,2-dichloroethane is added dropwise at RT keeping the temperature between 40-45° C. The reaction is stirred for 18 h at RT and is poured onto aqueous HCl-solution. The aqueous phase is extracted twice with DCM, the organic phase is washed with water, dried over MgSO4, filtered and the solvent is evaporated. The residue is elutriated with PE and the precipitate is collected.

reactant | aluminium(III)-chloride | 37.5 mmol, 5.00 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 1,3-dichloro-propan-2-one | 28.1 mmol, 2.24 mL | ClCC(CCl)=O | C3H4Cl2O
reactant | 1-(1,3-dihydro-isoindol-2-yl)-2,2,2-trifluoro-ethanone | 18.7 mmol, 4.48 g | C1N(CC2=CC=CC=C12)C(C(F)(F)F)=O | C10H8F3NO
reactant | HCl | Cl | ClH
solvent | 1,2-dichloroethane | 20 mL | ClCCCl | C2H4Cl2
solvent | 1,2-dichloroethane | 5 mL | ClCCCl | C2H4Cl2
product | 1-[5-(2-Chloro-acetyl)-1,3-dihydro-isoindol-2-yl]-2,2,2-trifluoro-ethanone | ClCC(=O)C=1C=C2CN(CC2=CC1)C(C(F)(F)F)=O | C12H9ClF3NO2
